US09328067B2
({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfinyl)acetic acid
To a solution of ({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)acetic acid (44 mg, 0.11 mmol) in CH2Cl2 (2 ml) and acetonitrile (2 ml) was added mCPBA (27 mg, ˜0.11 mmol). The reaction was stirred at room temperature for 4 hours and was concentrated. The residue was purified by flash column chromatography on silica gel (50-100% EtOAc in hexane, then 20-30% MeOH in EtOAc) followed by PTLC (25% MeOH in EtOAc) to yield the title compound (34 mg, 74%).

reactant | ({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)acetic acid | 0.11 mmol, 44 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCC(=O)O | C16H12ClNO5S2
reactant | mCPBA | ˜0.11 mmol, 27 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | ({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfinyl)acetic acid | 34 mg, 74% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)S(=O)CC(=O)O | C16H12ClNO6S2
